Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / clavulanic acid / amoxicillin 
/ levofloxacin
 
Attending: ___.
 
Chief Complaint:
hyperglycemia
 
Major Surgical or Invasive Procedure:
endotracheal intubation
central line placement
percutaneous nephrostomy tube placement
 
History of Present Illness:
Patient is a ___ female with a past medical history of 
insulin-dependent diabetes, depression, hypertension, 
hyperlipidemia who presents to the emergency department with 
concerns for sepsis.

Patient is currently living in a nursing home after multiple 
hospitalizations and has been noncompliant with her medications. 
Per nursing home reports, patient has been having multiple 
episodes of emesis and has been refusing her medications 
including insulin so she was sent for further evaluation. She 
presented to ___ emergency department and there 
was found to have hyperglycemia with sugars to 700s, VBG ph 
7.4/36.4/41.8/22.3, acetone to 4.1, and  trace ketones in urine) 
so was started on an insulin drip. Lactate went from 2.8 to 5.6, 
WBC to 14.9, and she had a CT of her abdomen done which is 
concerning for 2 obstructing left proximal ureteral calculi with 
the largest being 1.1cm, hydronephrosis, and concomitant UTI 
concerning for an infected stone. CT head negative for acute 
process, CXR clear. She was given vancomycin and ceftazidime(and 
___. Per review of records, she received 2 L of LR. Patient 
also had a CT of her head done with no evidence of intracranial 
hemorrhage. She was transferred here for further care given the 
concern for sepsis and need for ICU level care.

On arrival to the ED, history was obtained with help of husband 
and sign language interpreter. She described 2 weeks of not 
feeling well and having decreased p.o. intake. Her husband has 
been concerned for her ability to care for herself and feels 
that she has depression. She denied any chest pain or pressure, 
dyspnea, dysuria, melena.

ED Course notable for:
Initial vitals: 
99.0 97 158/100 16 95% RA 

Labs:
HCO3 of 21, BUN 52, Cr 2.6, glucose 311 
Ca ___, Mg 1.6, P 1.9 ALT 46, AST 56, ALP 177
WBC 29, hgb 14.1, plt 159
INR 1.6, PTT ___ 17.6
serum tox negative
trop 0.05

CK 305, MB 3

Lactate 4.7 
VBG ___

A1c 9.7% 

UA: lg leuks, negative nitrite, mod blood, 600 protein, 0 WBC, 
few bacteria 

She received 1L NS and 500cc LR. 

Consults: 
Urology: 
Recommended left percutaneous nephrostomy tube for decompression 
and continue IV abx

Transfer vitals: 
98.2 118 135/75 20 96% RA 
 
On arrival to the MICU, the patient complained of back pain but 
otherwise denied any complaints. Per the patient's husband, she 
has been increasingly confused over the past few weeks. On one 
occasion, she called the police on her husband and accused him 
of abuse even though he had not been home all day.  He says she 
has not been eating and not taking her pills and she vomits 
after pill ingestion. 

 
Past Medical History:
Type 2 Diabetes Mellitus 
Deafness
Anxiety
Hypertension
Hypothyroidism
Obesity 
 
Social History:
___
Family History:
n/a
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=================================
VITALS: Reviewed in metavision  
GENERAL: Awake, chronically ill appearing, looks older than 
stated age, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: stage 2 ulcer on buttox
NEURO:  Following commands 

DISCHARGE PHYSICAL EXAM:
==================================
GENERAL: No acute distress  
HEENT: AT/NC, anicteric sclera, dry mucous membranes
NECK: supple
CV: RRR, normal S1, S2, no murmurs, rubs or gallops
PULM: No increased WOB, CTAB
GI: Intertrigo in skin folds, soft, obese, nontender in all
quadrants, no rebound/guarding. There are scattered ecchymoses 
in
the lower quadrant.
THORAX: Perc nephrostomy had normal urine output
SKIN: intertrigo in all skinfold areas
EXTREMITIES: 1+ pitting edema in extremities
NEURO: AOx3

 
Pertinent Results:
ADMISSION LABS:
=======================
___ 11:00PM   WBC-20.0* RBC-5.20 HGB-14.1 HCT-43.3 MCV-83 
MCH-27.1 MCHC-32.6 RDW-15.2 RDWSD-45.3
___ 11:00PM   NEUTS-79.9* LYMPHS-9.6* MONOS-9.3 EOS-0.1* 
BASOS-0.3 NUC RBCS-0.2* IM ___ AbsNeut-15.95* AbsLymp-1.93 
AbsMono-1.87* AbsEos-0.03* AbsBaso-0.06
___ 11:00PM   ___ PTT-21.5* ___
___ 11:00PM   GLUCOSE-311* UREA N-52* CREAT-2.6* SODIUM-144 
POTASSIUM-4.3 CHLORIDE-99 TOTAL CO2-21* ANION GAP-24*
___ 11:00PM   ALT(SGPT)-46* AST(SGOT)-56* CK(CPK)-305* ALK 
PHOS-177* TOT BILI-1.0
___ 11:00PM   LIPASE-17
___ 11:00PM   cTropnT-0.05*
___ 11:00PM   CK-MB-3
___ 11:00PM   %HbA1c-9.7* eAG-232*
___ 11:00PM   VANCO-<4.0*
___ 10:40PM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-600* 
GLUCOSE-300* KETONE-NEG BILIRUBIN-SM* UROBILNGN-2* PH-6.0 
LEUK-LG*
___ 10:40PM URINE  RBC-8* WBC-0 BACTERIA-FEW* YEAST-NONE 
EPI-28

PERTINENT MICROBIOLOGY:
===============================
___ UCx: NO GROWTH
___: URINE CX (KIDNEY FLUID): NO GROWTH
___: BCx: NO GROWTH

PERTINENT IMAGING:
===============================
___: Successful placement of 8 ___ nephrostomy on the 
left.
___ CXR:  
ET tube appropriately positioned.  Right IJ central venous 
catheter in place.  No pneumothorax. 

___ VIDEO OROPHARYNGEAL SWALLOW STUDY: 
No penetration or aspiration of thin liquids on limited video 
oropharyngeal swallow study. 
  
Please note that a detailed description of dynamic swallowing as 
well as a 
summative assessment and recommendations are reported separately 
in a 
standalone note by the Speech-Language Pathologist (OMR, Notes, 
Rehabilitation Services). 

DISCHARGE LABS:
============================
___ 07:40AM BLOOD WBC-7.6 RBC-3.62* Hgb-10.3* Hct-34.0 
MCV-94 MCH-28.5 MCHC-30.3* RDW-17.2* RDWSD-58.3* Plt ___
 
Brief Hospital Course:
Ms. ___ is a ___ female with a past medical 
history of deafness, type 2 diabetes on insulin, 
depression/anxiety on diazepam, hypertension, hyperlipidemia who 
initially presented with obstructing L ureteral calculi, now s/p 
perc nephrostomy
tube on ceftaz for a 10 day course for empiric treatment of UTI. 
Hospital course notable for poor PO intake. 

#Obstructing L ureteral calculi
#Suspected UTI
Presented to OSH with N/V found to have L obstructive ureteral 
stone and severe hydronephrosis now status post nephrostomy 
placement on ___ on IV ceftaz for ___s empiric 
coverage given neg cultures which she completed on ___. Urology 
to perform definitive stone management after discharge with Dr. 
___. On the day of discharge, the nephrostomy was 
in place and draining well. Urology will reach out to the 
patient to schedule an appt for definitive stone management 
which was confirmed on day of discharge. 

#Nausea/vomiting
#Subacute anorexia/malnutrition
#Suspected GERD
Per report patient has experience several weeks of poor Po 
intake and nausea and vomiting at times. She was admitted twice 
at ___ with UTIs. For this part of the admission, 
she had presented to ___ with nausea and vomiting and 
was found to have obstructing stone as per above. Now with 
improving appetite and no vomiting in recent days raising 
suspicion that symptoms were due to her nephrolithiasis. Also 
treating GERD with PPI. At this point cleared for thin liquids 
by speech and swallow as well as soft solids. No plan for 
further GI workup unless symptoms recur or fails to meet 
nutrition needs. Please continue taking omeprazole 40mg daily.

#Suspected refeeding syndrome-resolved
Likely refeeding syndrome in the setting of giving D5 NS after 
prolonged oral aversion, with low K, mg and phos. This was 
resolved on the day of discharge and patient was also started on 
a Multivitamin with minerals.

# Hypothyroidism: 
Patient has a history of hypothyroidism. On ___, TSH 37 and FT4 
0.6, likely due to medication non-adherence since pre-admission. 
Recheck TSH and FT4 after 6 weeks. Please continue levothyroxine 
125 mcg PO daily.

#Subacute cough
Patient reports cough is much better. Chest x-ray (___) 
indicated no pneumonia. She has no white count and is afebrile. 
The etiology of the cough is currently unclear, but
likely due to secretion accumulation after long term swallowing 
aversion and/or complicated by GERD. Please continue omeprazole 
as above.

#Encephalopathy
Husband reports some cognitive and behavioral changes for a year 
with worsening in recent weeks in the setting of her medical 
illness. Suspect TME on admission secondary to obstructive renal 
stone/infection. Also suspicion for underlying neurologic or
psych process. Overall markedly improvement since admission. 
Discharge summary from ___ regarding last 
hospitalization in ___ showed that she had short-term memory
loss, which improved after UTI treatment. Consider outpatient 
psych and neuro follow up if patient's mental status shows 
little improvement after her acute medical issues are addressed.

#Hyperglycemia: 
#Type 2 DM: 
Had initially presented to ___ with glucose in the 800s 
due to nonadherence. Patient with A1c of 9.7%. ___ consulted 
recommending short/long acting insulin regime with daily 
titrations.

CHRONIC ISSUES: 
=============== 
# Hypertension: 
Patient on lisinopril and furosemide for hypertension at home.
Not volume overloaded on exam. Home lisinopril was held during 
admission and Lasix 20 mg PO daily was restarted before 
discharge. 

TRANSITIONAL ISSUES
===============================
[] Please recheck TFTs 6 weeks after discharge. TSH was elevated 
at 37 on admission due to medication non-adherence. Patient 
received home levothyroxine 125 mcg PO daily during admission. 
[] Please ensure Urology has scheduled follow-up appointment 
with Dr. ___ definitive stone management. Per 
Urology, they will contact her personally to schedule a 
follow-up appointment. 
[] Perform voiding trial at rehab. Foley was left in place given 
sacrum had extensive rash in order to keep area dry.
[] Wound care followed patient during this admission for the 
following wounds. 
1. Right Medial heel, 2 X 1 cm intact skin, deep red with 0.5
dark purple area at 10 O'clock. defined edges, periwound intact
2. Right Lateral heel, 2 X 2 cm intact skin, black tissue,
soft and boggy to palpate, defined edges, periwound intact 
3. Right Lateral foot, 4.5 X 1 cm, intact skin, black tissue,
firm to palpation, defined edges, periwound intact.
4. Plantar ___ metatarsal, 1 X 0.5 cm, intact skin deep maroon
with black center. 
[] Wound care recommendations were as follows. 
Pressure relief per pressure injury guidelines
 Support surface: SW Alternate Air
 Turn and reposition every ___ hours and prn off affected area
 Heels off bed surface at all times
Waffle Boots ( x ) Multipodis Splints ( ) 
 If OOB, limit sit time to one hour at a time and 
 Sit on a pressure redistribution cushion-
 Bariatric Air ( X )
 ROHO ( ) Obtain from ___
 OR ___ air full length chair cushion ( ) (Obtain from ___
 Elevate ___ while sitting.
 Moisturize B/L ___ and feet, intact skin only BID with Sooth
And Cool Ointment. 

Topical Therapy:
 Commercial wound cleanser or normal saline to cleanse wounds.
 Pat the tissue dry with dry gauze.

 Right Lateral Venous Stasis Wound - apply Adaptic dressing,
 cover with 4x4's and wrap with Kerlix. Secure with 2" 
 Medipore tape.

 Change dressing daily.

 Fecal Incontinence - cleanse sacrum/perineal tissue with 
 foam cleanser. Pat dry. Apply thin layer of Critic aid 
 clear skin barrier ointment daily. ___ reapply after each
 ___ cleansing. Place Xeroform dressing (antibacterial) over 
 site. Change daily and or as needed.

 Apply moisturize to intact BLE's daily.
[] Patient presents with functional pharyngeal swallow and mild 
oral phase deficits related to partially edentulous state, 
limiting advancement of diet texture. No aspiration on video 
swallow. Patient may be at increased risk for post prandial 
aspiration. Recommending aspiration precautions and soft 
solids/thin liquids diet. 
[] If patient is hypertensive at rehab, consider restarting 
lisinopril 2.5 mg PO daily which was held during admission. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 2.5 mg PO DAILY 
2. Simvastatin 10 mg PO QPM 
3. Levothyroxine Sodium 125 mcg PO DAILY 
4. TraMADol 25 mg PO Q6H:PRN Pain - Moderate 
5. Diazepam 2 mg PO QHS 
6. Furosemide 20 mg PO DAILY 
7. Gabapentin 300 mg PO TID 
8. HumuLIN 70/30 U-100 Insulin (insulin NPH and regular human) 
35 U subcutaneous Q12H 
9. Vitamin D ___ UNIT PO DAILY 
10. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Glargine 10 Units Breakfast
Glargine 30 Units Bedtime
Humalog 6 Units Breakfast
Humalog 6 Units Lunch
Humalog 6 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
2.  Miconazole Powder 2% 1 Appl TP BID  
3.  Multivitamins W/minerals 1 TAB PO DAILY  
4.  Omeprazole 40 mg PO DAILY GERD symptomatic   
5.  Aspirin 81 mg PO DAILY  
6.  Diazepam 2 mg PO QHS  
7.  Furosemide 20 mg PO DAILY  
8.  Gabapentin 300 mg PO TID  
9.  Levothyroxine Sodium 125 mcg PO DAILY  
10.  Simvastatin 10 mg PO QPM  
11.  TraMADol 25 mg PO Q6H:PRN Pain - Moderate  
12.  Vitamin D ___ UNIT PO DAILY  
13. HELD- Lisinopril 2.5 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until you are instructed to restart. 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
#UTI
#L ureteral obstructing nephrolithiasis with hydronephrosis s/p 
PCN
#Acute/subacute on chronic encephalopathy

#UTI
#L ureteral obstructing nephrolithiasis with hydronephrosis s/p 
PCN
#Acute/subacute on chronic encephalopathy

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Bed bound.
Mental Status: Clear and coherent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear Ms ___,  
It was a pleasure caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were admitted to the hospital because you had confusion 
and were having nausea and vomiting. We then did some imaging of 
your abdomen that showed that you had a kidney stone that was 
preventing your urine from flowing normally.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- We placed a tube to help drain your urine since you had a 
stone that was blocking the flow of your urine.
- We gave you antibiotics to treat your urinary tract infection 
for 10 days.
- You had problems with nausea and vomiting and you were scared 
to eat solid food. You passed a swallow test so we started you 
on soft foods and transitioned you to a regular diet.
 
WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  
- Dr. ___ urology ___ contact you regarding 
definitive stone management.

We wish you the best!  

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___